US08975400B2
1-methyl-7-((4-((5-(trifluoromethyl)pyridin-3-yl)oxy)benzyl)oxy)-2,3-dihydroi-midazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using (4-((5-(trifluoromethyl)pyridin-3-yl)oxy)phenyl)methanol (250 mg, 0.929 mmol) in DMF (5 mL), sodium hydride (66.9 mg, 2.79 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (172 mg, 0.929 mmol).

reactant | (4-((5-(trifluoromethyl)pyridin-3-yl)oxy)phenyl)methanol | 0.929 mmol, 250 mg | FC(C=1C=C(C=NC1)OC1=CC=C(C=C1)CO)(F)F | C13H10F3NO2
reactant | sodium hydride | 2.79 mmol, 66.9 mg | [H-].[Na+]
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.929 mmol, 172 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-methyl-7-((4-((5-(trifluoromethyl)pyridin-3-yl)oxy)benzyl)oxy)-2,3-dihydroi-midazo[1,2-c]pyrimidin-5(1H)-one | CN1CCN2C(N=C(C=C21)OCC2=CC=C(C=C2)OC=2C=NC=C(C2)C(F)(F)F)=O | C20H17F3N4O3
